US09428465B2
Step 1. Preparation of 2-(5-phenylpentyl)isoindoline-1,3-dione
5-Phenylpentan-1-ol (0.50 g, 3 mmol), triphenylphosphine (0.45 g, 3 mmol), and phthalimide (0.80 g, 3 mmol) were vigorously stirred in dry THE (5 mL) while cooling to 0° C. A solution of DEAD (0.62 g, 3 mmol) in 5 mL of dry THF was added dropwise to the cooled mixture. After stirring at room temperature for 12 his, the solvent was removed by reduced pressure. The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 90:10) to afford the title compound (0.68 g, 76%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 1.22-1.34 (m, 2H), 1.49-1.69 (m, 4H), 2.52-2.58 (m, 2H), 3.56 (t, J=7.06 Hz, 2H), 7.06-7.27 (m, 5H), 7.75-7.95 (m, 4H). MS (ESI) m/z: 334 [M-H]−.

reactant | 5-Phenylpentan-1-ol | 3 mmol, 0.50 g | C1(=CC=CC=C1)CCCCCO | C11H16O
reactant | triphenylphosphine | 3 mmol, 0.45 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 3 mmol, 0.80 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | DEAD | 3 mmol, 0.62 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(5-phenylpentyl)isoindoline-1,3-dione | 0.68 g, 76% | C1(=CC=CC=C1)CCCCCN1C(C2=CC=CC=C2C1=O)=O | C19H19NO2
